US20010049444A1
2.2a Preparation of N—[2-chloro-5-pyridyl]-3-(trifluoromethyl)benzamide (3)
To a stirring solution of 5-amino-2-chloropyridine (129 mg, 1 mmol) and N,N-diisopropylethylamine (209 μL, 1.2 mmol) in dry acetonitrile (5 mL) was added 3-(trifluoromethyl)benzoyl chloride (151 pL, 1 mmol). The resulting solution was heated at 55° C. for 3 h. After cooling to room temperature ethyl acetate (10 mL) was added and the solution was washed with water (2×10 mL) and dried (Na2SO4). The solvent was removed under reduced pressure and the crude material was purified by column chromatography (4:1, hexane/ethyl acetate) to afford the desired product as a white solid (284 mg, 94%).

reactant | 5-amino-2-chloropyridine | 1 mmol, 129 mg | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | N,N-diisopropylethylamine | 1.2 mmol, 209 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(trifluoromethyl)benzoyl chloride | 1 mmol | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N—[2-chloro-5-pyridyl]-3-(trifluoromethyl)benzamide | 284 mg, 94% | ClC1=NC=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C13H8ClF3N2O
